US04933405
To a 10 percent w/v ethylbenzene solution of 135 g of 1-(2-hydroxyethyl)-2-isostearyl-3-benzylimidazolinium chloride at 20° C. is added 1.1 molar equivalents (24.5 g) of pyridine followed by dropwise addition of 1.3 molar equivalents (38.3 g) of methacryloyl chloride. The solution is stirred for 4 hours at 20° C. followed by separation of the supernatant liquid and the ethylbenzene removed to give an oil of 1-(2-methacryloxyethyl)-2-isostearyl-3-benzylimidazolinium chloride.

reactant | ethylbenzene | C(C)C1=CC=CC=C1 | C8H10
reactant | 1-(2-hydroxyethyl)-2-isostearyl-3-benzylimidazolinium chloride | 135 g | [Cl-].OCC[NH+]1C(N(CC1)CC1=CC=CC=C1)CCCCCCCCCCCCCCCC(C)C
reactant | methacryloyl chloride | 38.3 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | pyridine | 24.5 g | N1=CC=CC=C1 | C5H5N
product | 1-(2-methacryloxyethyl)-2-isostearyl-3-benzylimidazolinium chloride | [Cl-].C(C(=C)C)(=O)OCC[NH+]1C(N(CC1)CC1=CC=CC=C1)CCCCCCCCCCCCCCCC(C)C | InChI=1S/C34H58N2O2.ClH/c1-30(2)21-17-14-12-10-8-6-5-7-9-11-13-15-20-24-33-35(27-28-38-34(37)31(3)4)25-26-36(33)29-32-22-18-16-19-23-32;/h16,18-19,22-23,30,33H,3,5-15,17,20-21,24-29H2,1-2,4H3;1H
